US04954518
3-Amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with N-tert-butoxycarbonylalanine in the presence of dicyclohexylcarbodiimide. The reaction product was treated with trifluoroacetic acid to obtain 3-(2-aminopropionyl)amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 3-Amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H14N2O5S
reactant | N-tert-butoxycarbonylalanine | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-aminopropionyl)amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | NC(C(=O)NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2)C | C19H19N3O6S
